US04284641
1-Cyclo-octylmethylimidazole
Cyclooctane methyl bromide (5.5 g, 0.027 mole) was added dropwise to a refluxing solution of imidazole (2.0 g, 0.03 mole) in a solution of sodium (0.7 g, 0.03 mole) in absolute ethanol (50 ml). After addition the mixture was refluxed for a further 15 hours.

reactant | Cyclooctane methyl bromide | 0.027 mole, 5.5 g | CBr.C1CCCCCCC1
reactant | imidazole | 0.03 mole, 2.0 g | N1C=NC=C1 | C3H4N2
reactant | sodium | 0.03 mole, 0.7 g | [Na] | Na
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-Cyclo-octylmethylimidazole | C1(CCCCCCC1)CN1C=NC=C1 | C12H20N2
